US05488171
A mixture of p-methylacetophenone (2.68 g. 0.02M) and hypophosphorous acid (90%, 1.45 g. 0.02M) is heated on a steam bath for 12 hours. The reaction mixture is poured into ice-water and the organic material is extracted with ethyl acetate. Evaporation and co-evaporation with toluene gives a white solid which is crystallised from chloroform/hexane. There is obtained 1-hydroxy-1-p-tolylethylphosphonous acid, m.p. 115° C.

reactant | p-methylacetophenone | 0.02M, 2.68 g | CC1=CC=C(C=C1)C(C)=O | C9H10O
reactant | hypophosphorous acid | 0.02M, 1.45 g | [PH2](=O)O | H3O2P
product | 1-hydroxy-1-p-tolylethylphosphonous acid | OC(C)(C1=CC=C(C=C1)C)P(O)O | C9H13O3P
